US08802864B2
4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2-(1-methylethyl)-2,4-dihydro-3H-1,2,4-triazol-3-one
To a solution of 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (60 mg, 0.14 mmol) in N,N-dimethylformamide (1 mL) in a 5 mL microwaveable vial was added potassium carbonate (60 mg, 0.434 mmol, 3.1 eq) and 2-iodopropane (34 mg, 0.200 mmol, 1.4 eq). The vial was capped and purged with nitrogen gas, and the reaction was stirred for 16 h at 80° C. Analysis by LC/MS displayed the reaction had progressed only 15%. To the reaction mixture was added another equivalent of 2-iodopropane and the solution was irradiated in the microwave at 160° C. for 30 min. Analysis by LC/MS displayed the reaction had progressed to 35% completion. The reaction mixture was subjected to several iterations of microwave conditions, increasing the reaction temperature and reaction time, until the final conditions of 180° C. for 3 h was reached. It was determined via analysis by LC/MS that the reaction had proceeded to 90% completion. The reaction mixture was poured into a mixture of dichloromethane and water. The organic layer was separated. The aqueous layer was washed with dichloromethane. The organic extractions were combined and washed 3× with a dilute brine solution. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified by reverse phase HPLC (LUNA C-18: 30×50 mm column; 25-65% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions were neutralized with the addition of saturated aq sodium bicarbonate, combined, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (18 mg, 27%). MS(ES)+ m/e 471.3 [M+H]+.

reactant | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.14 mmol, 60 mg | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O | C25H24N4O3
reactant | potassium carbonate | 0.434 mmol, 60 mg, 3.1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 0.200 mmol, 34 mg, 1.4 eq | IC(C)C | C3H7I
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2-(1-methylethyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 18 mg, 27% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(N(N=C2C[C@H]2CN(CC2)C(=O)C2CC2)C(C)C)=O | C28H30N4O3
